US03963730
A solution of 6.3 g. of acetonine in 40 g. of acetone was added with 0.5 g. of malonic acid and the mixture was heated at 60°C. for 10 hours in a sealed equipment to effect the reaction. After completion of the reaction, the reaction mixture was purified in the same manner as in Example 1 to obtain triacetonamine in a yield of 115%.

reactant | acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
solvent | acetone | CC(=O)C | C3H6O
product | triacetonamine | yield of 115% | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
